US05521193
EXAMPLE 1 5-chloro-N-isopropyl-2-nitroaniline
5-chloro-2-nitroaniline (8.6 g; 0.05 mole), 2,2-dimethoxypropane (10.0 ml; 0.09 mole) and trifluoroacetic acid [TFA] (4.0 ml; 0.005 moles) were dissolved in toluene (100 ml) and stirred for 1 hr. A boron/pyridine complex (hereinafter BH3 * pyridine) (5.0 ml; 0.05 moles) was added in 1.0 ml increments. The reaction was exothermic, and the reaction progress was monitored by tlc (40%EtOAc/hexane). Additional TFA, BH3 * pyridine and 2,2-dimethoxypropane were added until the tlc indicated that the 5-chloro-2-nitroaniline was consumed. The reaction mixture was placed on a bed of silica and eluted with toluene. The product was the first major component to elute, which produced 6.6 g (61%) of a yellow crystalline solid.

reactant | 5-chloro-2-nitroaniline | 0.05 mole, 8.6 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,2-dimethoxypropane | 0.09 mole, 10.0 ml | COC(C)(C)OC | C5H12O2
reactant | trifluoroacetic acid | 0.005 moles, 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 5-chloro-N-isopropyl-2-nitroaniline | 6.6 g, 61% | ClC=1C=CC(=C(NC(C)C)C1)[N+](=O)[O-] | C9H11ClN2O2
